US07105553B2
2-Chloro-4-methyl-1,3-thiazol-5-sulphonyl chloride
At room temperature, 150 g (1.12 mol) of 2-chloro-4-methyl-1,3-thiazole are added dropwise to a solution of 331 g (2.81 mol) of thionyl chloride in 653 g (5.61 mol) of chlorosulphonic acid. The solution is heated at reflux for 48 h. The mixture is then poured into 3 l of ice-water and extracted with 4×400 ml of dichloromethane. The combined organic phases are washed with 2.5 l of water, dried over sodium sulphate and concentrated. Distillation of the crude product gives 233.7 g of product in the form of an oil. (Bp 87-96° C., 0.7 mbar, GC 98.1%, yield 89.6%).

reactant | 2-chloro-4-methyl-1,3-thiazole | 1.12 mol, 150 g | ClC=1SC=C(N1)C | C4H4ClNS
reactant | thionyl chloride | 2.81 mol, 331 g | S(=O)(Cl)Cl | Cl2OS
reactant | chlorosulphonic acid | 5.61 mol, 653 g | ClS(=O)(=O)O | ClHO3S
product | 2-Chloro-4-methyl-1,3-thiazol-5-sulphonyl chloride | 233.7 g, yield 89.6% | ClC=1SC(=C(N1)C)S(=O)(=O)Cl | C4H3Cl2NO2S2
